US07199120B2
A solution of 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanol (0.1 g, 0.4 mmol), manganese(IV)oxide (0.17 g. 1.95 mmol), and methylene chloride (10 mL) were allowed to stir at room temperature for 72 hours. When judged to be complete, the mixture was filtered through a plug of Celite, and the filtrate was concentrated to provide 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone (97 mg, 98%) as a pale yellow solid. 1H NMR (DMSO-d6): δ 8.92 (d. 1H), 8.30 (d, 1H), 7.82 (d, 1H), 7.46 (m, 2H), 7.34 (s, 1H), 7.23 (m, 1H), 2.71 (s, 3H).

reactant | 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanol | 0.4 mmol, 0.1 g | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)C(C)O | C14H12FN3O
catalyst | manganese(IV)oxide | 1.95 mmol, 0.17 g | [O-2].[Mn+4].[O-2]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone | 97 mg, 98% | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)C(C)=O | C14H10FN3O
